US08222248B2
To a solution of 2-(2,6-dichlorophenyl)-benzooxazole-6-carboxylic acid methyl ester (1.6 g) in EtOH (13 mL) was added 4N NaOH aqueous solution (6.2 mL). The reaction was stirred at 80° C. for 0.5 h. The reaction mixture was concentrated, diluted with water, and treated with Et2O. The aqueous layer was acidified with 1N HCl aqueous solution. The precipitate was filtered, washed with water, and dried in vacuo to give 2-(2,6-dichloro-phenyl)-benzooxazole-6-carboxylic acid as a white solid: MS (m/z) 308.0 (M+1).

reactant | 2-(2,6-dichlorophenyl)-benzooxazole-6-carboxylic acid methyl ester | 1.6 g | COC(=O)C1=CC2=C(N=C(O2)C2=C(C=CC=C2Cl)Cl)C=C1 | C15H9Cl2NO3
reactant | NaOH | 4N, 6.2 mL | [OH-].[Na+]
solvent | EtOH | 13 mL | CCO | C2H6O
product | 2-(2,6-dichloro-phenyl)-benzooxazole-6-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C=1OC2=C(N1)C=CC(=C2)C(=O)O | C14H7Cl2NO3
